US04174210
A mixture of 121 g (1 mol) dimethylaniline, 149 g (1 mol) 3-bromo-2-butanone and 126 g (1.5 mol) sodium bicarbonate in 500 ml ethanol was stirred at 60°-70° C. for about 18 hours. The reaction mixture was filtered and the filtrate evaporated under reduced pressure to give an oil. The oil was taken up in dichloromethane, dried over magnesium sulfate, treated with silica, filtered and evaporated under reduced pressure to give 174.8 g of 3-(2,6-dimethylphenylamino)-2-butanone as a light amber oil. The infrared spectrum of the product showed strong carbonyl absorption at 5.8 microns.

reactant | dimethylaniline | 1 mol, 121 g | CN(C1=CC=CC=C1)C | C8H11N
reactant | 3-bromo-2-butanone | 1 mol, 149 g | BrC(C(C)=O)C | C4H7BrO
reactant | sodium bicarbonate | 1.5 mol, 126 g | C([O-])(O)=O.[Na+]
reactant | ethanol | 500 ml | C(C)O | C2H6O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 3-(2,6-dimethylphenylamino)-2-butanone | 174.8 g | CC1=C(C(=CC=C1)C)NC(C(C)=O)C | C12H17NO
